US05633387
To sodium azide (0.65 g) dissolved in water (3.5 ml) a solution of 2-chlorophenylisocyanide, dichloride (2.09 g) in acetone (8 ml) was added with stirring. The mixture was heated to 50° C. and stirred for 15 minutes while maintaining this temperature. Thereafter, the mixture was heated for further 30 minutes with refluxing. An aqueous sodium hydroxide solution (about 40%, 2.5 g) and water (5 ml) were added thereto and the mixture was heated for 5 hours under stirring. After completing the reaction, the organic solvent was distilled off under reduced pressure and the water layer was washed once with toluene (5 ml). The mixture was adjusted to a pH of 1 with hydrochloric acid and the precipitate was collected by filtration with suction. The precipitate was washed with water followed-by drying to obtain light tan crystals 1-(2-chlorophenyl)-5(4H)-tetrazolinone (yield: 94%). melting point: 122°-124° C.

reactant | sodium azide | 0.65 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
reactant | 2-chlorophenylisocyanide | ClC1=C(C=CC=C1)[N+]#[C-] | C7H4ClN
solvent | water | 3.5 ml | O | H2O
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 1-(2-chlorophenyl)-5(4H)-tetrazolinone | yield: 94% | C1=CC=C(C(=C1)N2C(=O)N=NN2)Cl | C7H5ClN4O
